** SoilZ v1 flat DC test
.include _soilz_dc.inc

MPM3 net_c1 net_c1 vdd vdd sg13_lv_pmos W=0.5u L=10u
MPM4 net_c2 net_c1 vdd vdd sg13_lv_pmos W=0.5u L=10u
MMN1 net_c1 net_c1 gnd gnd sg13_lv_nmos W=2u L=4u
MMN2 net_c2 net_c1 net_rptat gnd sg13_lv_nmos W=16u L=4u
RRptat net_rptat gnd rhigh w=0.5u l=134.09u b=12 m=1
MPM_ref nmos_bias net_c1 vdd vdd sg13_lv_pmos W=0.5u L=10u
MMN_diode nmos_bias nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MMN_pgen pmos_bias nmos_bias gnd gnd sg13_lv_nmos W=1u L=2u
MPM_pdiode pmos_bias pmos_bias vdd vdd sg13_lv_pmos W=0.5u L=2u
MPM5 vptat net_c1 vdd vdd sg13_lv_pmos W=0.5u L=10u
RRout vptat gnd rppd w=0.5u l=25.915u b=4 m=1
MMpb1 ns1 pmos_bias vdd vdd sg13_lv_pmos W=4u L=2u
MMpu1 vco1 vco5 ns1 vdd sg13_lv_pmos W=2u L=0.5u
MMpd1 vco1 vco5 nb1 gnd sg13_lv_nmos W=1u L=0.5u
MMnb1 nb1 nmos_bias gnd gnd sg13_lv_nmos W=8u L=2u
MMpb2 ns2 pmos_bias vdd vdd sg13_lv_pmos W=4u L=2u
MMpu2 vco2 vco1 ns2 vdd sg13_lv_pmos W=2u L=0.5u
MMpd2 vco2 vco1 nb2 gnd sg13_lv_nmos W=1u L=0.5u
MMnb2 nb2 nmos_bias gnd gnd sg13_lv_nmos W=8u L=2u
MMpb3 ns3 pmos_bias vdd vdd sg13_lv_pmos W=4u L=2u
MMpu3 vco3 vco2 ns3 vdd sg13_lv_pmos W=2u L=0.5u
MMpd3 vco3 vco2 nb3 gnd sg13_lv_nmos W=1u L=0.5u
MMnb3 nb3 nmos_bias gnd gnd sg13_lv_nmos W=8u L=2u
MMpb4 ns4 pmos_bias vdd vdd sg13_lv_pmos W=4u L=2u
MMpu4 vco4 vco3 ns4 vdd sg13_lv_pmos W=2u L=0.5u
MMpd4 vco4 vco3 nb4 gnd sg13_lv_nmos W=1u L=0.5u
MMnb4 nb4 nmos_bias gnd gnd sg13_lv_nmos W=8u L=2u
MMpb5 ns5 pmos_bias vdd vdd sg13_lv_pmos W=4u L=2u
MMpu5 vco5 vco4 ns5 vdd sg13_lv_pmos W=2u L=0.5u
MMpd5 vco5 vco4 nb5 gnd sg13_lv_nmos W=1u L=0.5u
MMnb5 nb5 nmos_bias gnd gnd sg13_lv_nmos W=8u L=2u
MMBp1 buf1 vco5 vdd vdd sg13_lv_pmos W=4u L=0.5u
MMBn1 buf1 vco5 gnd gnd sg13_lv_nmos W=2u L=0.5u
MMBp2 vco_out buf1 vdd vdd sg13_lv_pmos W=8u L=0.5u
MMBn2 vco_out buf1 gnd gnd sg13_lv_nmos W=4u L=0.5u
MPM_cas_ref cas_ref net_c1 vdd vdd sg13_lv_pmos W=1u L=10u
MPM_cas_diode vcas vcas cas_ref vdd sg13_lv_pmos W=1u L=2u
MMN_cas_load vcas vcas gnd gnd sg13_lv_nmos W=0.5u L=2u
MPM_mir1 cas1 net_c1 vdd vdd sg13_lv_pmos W=1u L=10u
MPM_cas1 src1 vcas cas1 vdd sg13_lv_pmos W=1u L=2u
MPM_mir2 cas2 net_c1 vdd vdd sg13_lv_pmos W=2u L=10u
MPM_cas2 src2 vcas cas2 vdd sg13_lv_pmos W=2u L=2u
MPM_mir3 cas3 net_c1 vdd vdd sg13_lv_pmos W=4u L=10u
MPM_cas3 src3 vcas cas3 vdd sg13_lv_pmos W=4u L=2u
MSW1n src1 sel0 exc_out gnd sg13_lv_nmos W=2u L=0.5u
MSW1p src1 sel0b exc_out vdd sg13_lv_pmos W=4u L=0.5u
MSW2n src2 sel1 exc_out gnd sg13_lv_nmos W=2u L=0.5u
MSW2p src2 sel1b exc_out vdd sg13_lv_pmos W=4u L=0.5u
MSW3n src3 sel2 exc_out gnd sg13_lv_nmos W=2u L=0.5u
MSW3p src3 sel2b exc_out vdd sg13_lv_pmos W=4u L=0.5u
MM_inv0_n f_exc_b f_exc gnd gnd sg13_lv_nmos W=1u L=0.5u
MM_inv0_p f_exc_b f_exc vdd vdd sg13_lv_pmos W=2u L=0.5u
MM_da1_n da1 f_exc gnd gnd sg13_lv_nmos W=1u L=0.5u
MM_da1_p da1 f_exc vdd vdd sg13_lv_pmos W=2u L=0.5u
MM_da2_n f_exc_d da1 gnd gnd sg13_lv_nmos W=1u L=0.5u
MM_da2_p f_exc_d da1 vdd vdd sg13_lv_pmos W=2u L=0.5u
MM_db1_n db1 f_exc_b gnd gnd sg13_lv_nmos W=1u L=0.5u
MM_db1_p db1 f_exc_b vdd vdd sg13_lv_pmos W=2u L=0.5u
MM_db2_n f_exc_b_d db1 gnd gnd sg13_lv_nmos W=1u L=0.5u
MM_db2_p f_exc_b_d db1 vdd vdd sg13_lv_pmos W=2u L=0.5u
MM_na_p1 nand_a f_exc vdd vdd sg13_lv_pmos W=2u L=0.5u
MM_na_p2 nand_a f_exc_d vdd vdd sg13_lv_pmos W=2u L=0.5u
MM_na_n1 nand_a f_exc na_mid gnd sg13_lv_nmos W=2u L=0.5u
MM_na_n2 na_mid f_exc_d gnd gnd sg13_lv_nmos W=2u L=0.5u
MM_ia_n phi_p nand_a gnd gnd sg13_lv_nmos W=2u L=0.5u
MM_ia_p phi_p nand_a vdd vdd sg13_lv_pmos W=4u L=0.5u
MM_nb_p1 nand_b f_exc_b vdd vdd sg13_lv_pmos W=2u L=0.5u
MM_nb_p2 nand_b f_exc_b_d vdd vdd sg13_lv_pmos W=2u L=0.5u
MM_nb_n1 nand_b f_exc_b nb_mid gnd sg13_lv_nmos W=2u L=0.5u
MM_nb_n2 nb_mid f_exc_b_d gnd gnd sg13_lv_nmos W=2u L=0.5u
MM_ib_n phi_n nand_b gnd gnd sg13_lv_nmos W=2u L=0.5u
MM_ib_p phi_n nand_b vdd vdd sg13_lv_pmos W=4u L=0.5u
MMS1 exc_out phi_p probe_p gnd sg13_lv_nmos W=4u L=0.5u
MMS2 gnd phi_n probe_p gnd sg13_lv_nmos W=4u L=0.5u
MMS3 exc_out phi_n probe_n gnd sg13_lv_nmos W=4u L=0.5u
MMS4 gnd phi_p probe_n gnd sg13_lv_nmos W=4u L=0.5u
MMchop1n sens_p f_exc chop_out gnd sg13_lv_nmos W=2u L=0.5u
MMchop1p sens_p f_exc_b chop_out vdd sg13_lv_pmos W=4u L=0.5u
MMchop2n sens_n f_exc_b chop_out gnd sg13_lv_nmos W=2u L=0.5u
MMchop2p sens_n f_exc chop_out vdd sg13_lv_pmos W=4u L=0.5u
MMbias_d bias_n bias_n gnd gnd sg13_lv_nmos W=4u L=4u
MMp_load_p mid_p mid_p vdd vdd sg13_lv_pmos W=4u L=4u
MMp_load_n ota_out mid_p vdd vdd sg13_lv_pmos W=4u L=4u
MMin_p mid_p vref_ota tail gnd sg13_lv_nmos W=10u L=2u
MMin_n ota_out sum_n tail gnd sg13_lv_nmos W=10u L=2u
MMtail tail bias_n gnd gnd sg13_lv_nmos W=8u L=4u
MMc_tail c_tail comp_clk gnd gnd sg13_lv_nmos W=4u L=0.5u
MMc_inp c_di_p ota_out c_tail gnd sg13_lv_nmos W=4u L=0.5u
MMc_inn c_di_n vref_comp c_tail gnd sg13_lv_nmos W=4u L=0.5u
MMc_rst_dp c_di_p comp_clk vdd vdd sg13_lv_pmos W=2u L=0.5u
MMc_rst_dn c_di_n comp_clk vdd vdd sg13_lv_pmos W=2u L=0.5u
MMc_ln1 comp_outp comp_outn c_di_p gnd sg13_lv_nmos W=1u L=0.5u
MMc_ln2 comp_outn comp_outp c_di_n gnd sg13_lv_nmos W=1u L=0.5u
MMc_lp1 comp_outp comp_outn vdd vdd sg13_lv_pmos W=1u L=0.5u
MMc_lp2 comp_outn comp_outp vdd vdd sg13_lv_pmos W=1u L=0.5u
MMc_rst_op comp_outp comp_clk vdd vdd sg13_lv_pmos W=2u L=0.5u
MMc_rst_on comp_outn comp_clk vdd vdd sg13_lv_pmos W=2u L=0.5u
MMn1a n1_mid comp_outp gnd gnd sg13_lv_nmos W=2u L=0.5u
MMp1a lat_q comp_outp vdd vdd sg13_lv_pmos W=2u L=0.5u
MMn1b lat_q lat_qb n1_mid gnd sg13_lv_nmos W=2u L=0.5u
MMp1b lat_q lat_qb vdd vdd sg13_lv_pmos W=2u L=0.5u
MMn2a n2_mid comp_outn gnd gnd sg13_lv_nmos W=2u L=0.5u
MMp2a lat_qb comp_outn vdd vdd sg13_lv_pmos W=2u L=0.5u
MMn2b lat_qb lat_q n2_mid gnd sg13_lv_nmos W=2u L=0.5u
MMp2b lat_qb lat_q vdd vdd sg13_lv_pmos W=2u L=0.5u
MMdac_tg1n dac_hi lat_q dac_out gnd sg13_lv_nmos W=2u L=0.5u
MMdac_tg1p dac_hi lat_qb dac_out vdd sg13_lv_pmos W=4u L=0.5u
MMdac_tg2n dac_lo lat_qb dac_out gnd sg13_lv_nmos W=2u L=0.5u
MMdac_tg2p dac_lo lat_q dac_out vdd sg13_lv_pmos W=4u L=0.5u
RRin chop_out sum_n rhigh w=0.5u l=20.73u b=2 m=1
RRdac dac_out sum_n rhigh w=0.5u l=20.73u b=2 m=1
MT1I_m1 div2_I_b vco_b t1I_m gnd sg13_lv_nmos W=1u L=0.5u
MT1I_m2 div2_I_b vco_out t1I_m vdd sg13_lv_pmos W=2u L=0.5u
MT1I_m3 t1I_mb t1I_m gnd gnd sg13_lv_nmos W=1u L=0.5u
MT1I_m4 t1I_mb t1I_m vdd vdd sg13_lv_pmos W=2u L=0.5u
MT1I_m5 t1I_nmp vco_b vdd vdd sg13_lv_pmos W=2u L=0.5u
MT1I_m6 t1I_m t1I_mb t1I_nmp vdd sg13_lv_pmos W=2u L=0.5u
MT1I_m7 t1I_m t1I_mb t1I_nmn gnd sg13_lv_nmos W=1u L=0.5u
MT1I_m8 t1I_nmn vco_out gnd gnd sg13_lv_nmos W=1u L=0.5u
MT1I_s1 t1I_m vco_out div2_I gnd sg13_lv_nmos W=1u L=0.5u
MT1I_s2 t1I_m vco_b div2_I vdd sg13_lv_pmos W=2u L=0.5u
MT1I_s3 div2_I_b div2_I gnd gnd sg13_lv_nmos W=1u L=0.5u
MT1I_s4 div2_I_b div2_I vdd vdd sg13_lv_pmos W=2u L=0.5u
MT1I_s5 t1I_nsp vco_out vdd vdd sg13_lv_pmos W=2u L=0.5u
MT1I_s6 div2_I div2_I_b t1I_nsp vdd sg13_lv_pmos W=2u L=0.5u
MT1I_s7 div2_I div2_I_b t1I_nsn gnd sg13_lv_nmos W=1u L=0.5u
MT1I_s8 t1I_nsn vco_b gnd gnd sg13_lv_nmos W=1u L=0.5u
MT1Q_m1 div2_Q_b vco_out t1Q_m gnd sg13_lv_nmos W=1u L=0.5u
MT1Q_m2 div2_Q_b vco_b t1Q_m vdd sg13_lv_pmos W=2u L=0.5u
MT1Q_m3 t1Q_mb t1Q_m gnd gnd sg13_lv_nmos W=1u L=0.5u
MT1Q_m4 t1Q_mb t1Q_m vdd vdd sg13_lv_pmos W=2u L=0.5u
MT1Q_m5 t1Q_nmp vco_out vdd vdd sg13_lv_pmos W=2u L=0.5u
MT1Q_m6 t1Q_m t1Q_mb t1Q_nmp vdd sg13_lv_pmos W=2u L=0.5u
MT1Q_m7 t1Q_m t1Q_mb t1Q_nmn gnd sg13_lv_nmos W=1u L=0.5u
MT1Q_m8 t1Q_nmn vco_b gnd gnd sg13_lv_nmos W=1u L=0.5u
MT1Q_s1 t1Q_m vco_b div2_Q gnd sg13_lv_nmos W=1u L=0.5u
MT1Q_s2 t1Q_m vco_out div2_Q vdd sg13_lv_pmos W=2u L=0.5u
MT1Q_s3 div2_Q_b div2_Q gnd gnd sg13_lv_nmos W=1u L=0.5u
MT1Q_s4 div2_Q_b div2_Q vdd vdd sg13_lv_pmos W=2u L=0.5u
MT1Q_s5 t1Q_nsp vco_b vdd vdd sg13_lv_pmos W=2u L=0.5u
MT1Q_s6 div2_Q div2_Q_b t1Q_nsp vdd sg13_lv_pmos W=2u L=0.5u
MT1Q_s7 div2_Q div2_Q_b t1Q_nsn gnd sg13_lv_nmos W=1u L=0.5u
MT1Q_s8 t1Q_nsn vco_out gnd gnd sg13_lv_nmos W=1u L=0.5u
MT2I_m1 div4_I_b div2_I_b t2I_m gnd sg13_lv_nmos W=1u L=0.5u
MT2I_m2 div4_I_b div2_I t2I_m vdd sg13_lv_pmos W=2u L=0.5u
MT2I_m3 t2I_mb t2I_m gnd gnd sg13_lv_nmos W=1u L=0.5u
MT2I_m4 t2I_mb t2I_m vdd vdd sg13_lv_pmos W=2u L=0.5u
MT2I_m5 t2I_nmp div2_I_b vdd vdd sg13_lv_pmos W=2u L=0.5u
MT2I_m6 t2I_m t2I_mb t2I_nmp vdd sg13_lv_pmos W=2u L=0.5u
MT2I_m7 t2I_m t2I_mb t2I_nmn gnd sg13_lv_nmos W=1u L=0.5u
MT2I_m8 t2I_nmn div2_I gnd gnd sg13_lv_nmos W=1u L=0.5u
MT2I_s1 t2I_m div2_I div4_I gnd sg13_lv_nmos W=1u L=0.5u
MT2I_s2 t2I_m div2_I_b div4_I vdd sg13_lv_pmos W=2u L=0.5u
MT2I_s3 div4_I_b div4_I gnd gnd sg13_lv_nmos W=1u L=0.5u
MT2I_s4 div4_I_b div4_I vdd vdd sg13_lv_pmos W=2u L=0.5u
MT2I_s5 t2I_nsp div2_I vdd vdd sg13_lv_pmos W=2u L=0.5u
MT2I_s6 div4_I div4_I_b t2I_nsp vdd sg13_lv_pmos W=2u L=0.5u
MT2I_s7 div4_I div4_I_b t2I_nsn gnd sg13_lv_nmos W=1u L=0.5u
MT2I_s8 t2I_nsn div2_I_b gnd gnd sg13_lv_nmos W=1u L=0.5u
MT2Q_m1 div4_Q_b div2_I t2Q_m gnd sg13_lv_nmos W=1u L=0.5u
MT2Q_m2 div4_Q_b div2_I_b t2Q_m vdd sg13_lv_pmos W=2u L=0.5u
MT2Q_m3 t2Q_mb t2Q_m gnd gnd sg13_lv_nmos W=1u L=0.5u
MT2Q_m4 t2Q_mb t2Q_m vdd vdd sg13_lv_pmos W=2u L=0.5u
MT2Q_m5 t2Q_nmp div2_I vdd vdd sg13_lv_pmos W=2u L=0.5u
MT2Q_m6 t2Q_m t2Q_mb t2Q_nmp vdd sg13_lv_pmos W=2u L=0.5u
MT2Q_m7 t2Q_m t2Q_mb t2Q_nmn gnd sg13_lv_nmos W=1u L=0.5u
MT2Q_m8 t2Q_nmn div2_I_b gnd gnd sg13_lv_nmos W=1u L=0.5u
MT2Q_s1 t2Q_m div2_I_b div4_Q gnd sg13_lv_nmos W=1u L=0.5u
MT2Q_s2 t2Q_m div2_I div4_Q vdd sg13_lv_pmos W=2u L=0.5u
MT2Q_s3 div4_Q_b div4_Q gnd gnd sg13_lv_nmos W=1u L=0.5u
MT2Q_s4 div4_Q_b div4_Q vdd vdd sg13_lv_pmos W=2u L=0.5u
MT2Q_s5 t2Q_nsp div2_I_b vdd vdd sg13_lv_pmos W=2u L=0.5u
MT2Q_s6 div4_Q div4_Q_b t2Q_nsp vdd sg13_lv_pmos W=2u L=0.5u
MT2Q_s7 div4_Q div4_Q_b t2Q_nsn gnd sg13_lv_nmos W=1u L=0.5u
MT2Q_s8 t2Q_nsn div2_I gnd gnd sg13_lv_nmos W=1u L=0.5u
MT3_m1 div8_b div4_I_b t3_m gnd sg13_lv_nmos W=1u L=0.5u
MT3_m2 div8_b div4_I t3_m vdd sg13_lv_pmos W=2u L=0.5u
MT3_m3 t3_mb t3_m gnd gnd sg13_lv_nmos W=1u L=0.5u
MT3_m4 t3_mb t3_m vdd vdd sg13_lv_pmos W=2u L=0.5u
MT3_m5 t3_nmp div4_I_b vdd vdd sg13_lv_pmos W=2u L=0.5u
MT3_m6 t3_m t3_mb t3_nmp vdd sg13_lv_pmos W=2u L=0.5u
MT3_m7 t3_m t3_mb t3_nmn gnd sg13_lv_nmos W=1u L=0.5u
MT3_m8 t3_nmn div4_I gnd gnd sg13_lv_nmos W=1u L=0.5u
MT3_s1 t3_m div4_I div8 gnd sg13_lv_nmos W=1u L=0.5u
MT3_s2 t3_m div4_I_b div8 vdd sg13_lv_pmos W=2u L=0.5u
MT3_s3 div8_b div8 gnd gnd sg13_lv_nmos W=1u L=0.5u
MT3_s4 div8_b div8 vdd vdd sg13_lv_pmos W=2u L=0.5u
MT3_s5 t3_nsp div4_I vdd vdd sg13_lv_pmos W=2u L=0.5u
MT3_s6 div8 div8_b t3_nsp vdd sg13_lv_pmos W=2u L=0.5u
MT3_s7 div8 div8_b t3_nsn gnd sg13_lv_nmos W=1u L=0.5u
MT3_s8 t3_nsn div4_I_b gnd gnd sg13_lv_nmos W=1u L=0.5u
MT4I_m1 div16_I_b div8_b t4I_m gnd sg13_lv_nmos W=1u L=0.5u
MT4I_m2 div16_I_b div8 t4I_m vdd sg13_lv_pmos W=2u L=0.5u
MT4I_m3 t4I_mb t4I_m gnd gnd sg13_lv_nmos W=1u L=0.5u
MT4I_m4 t4I_mb t4I_m vdd vdd sg13_lv_pmos W=2u L=0.5u
MT4I_m5 t4I_nmp div8_b vdd vdd sg13_lv_pmos W=2u L=0.5u
MT4I_m6 t4I_m t4I_mb t4I_nmp vdd sg13_lv_pmos W=2u L=0.5u
MT4I_m7 t4I_m t4I_mb t4I_nmn gnd sg13_lv_nmos W=1u L=0.5u
MT4I_m8 t4I_nmn div8 gnd gnd sg13_lv_nmos W=1u L=0.5u
MT4I_s1 t4I_m div8 div16_I gnd sg13_lv_nmos W=1u L=0.5u
MT4I_s2 t4I_m div8_b div16_I vdd sg13_lv_pmos W=2u L=0.5u
MT4I_s3 div16_I_b div16_I gnd gnd sg13_lv_nmos W=1u L=0.5u
MT4I_s4 div16_I_b div16_I vdd vdd sg13_lv_pmos W=2u L=0.5u
MT4I_s5 t4I_nsp div8 vdd vdd sg13_lv_pmos W=2u L=0.5u
MT4I_s6 div16_I div16_I_b t4I_nsp vdd sg13_lv_pmos W=2u L=0.5u
MT4I_s7 div16_I div16_I_b t4I_nsn gnd sg13_lv_nmos W=1u L=0.5u
MT4I_s8 t4I_nsn div8_b gnd gnd sg13_lv_nmos W=1u L=0.5u
MT4Q_m1 div16_Q_b div8 t4Q_m gnd sg13_lv_nmos W=1u L=0.5u
MT4Q_m2 div16_Q_b div8_b t4Q_m vdd sg13_lv_pmos W=2u L=0.5u
MT4Q_m3 t4Q_mb t4Q_m gnd gnd sg13_lv_nmos W=1u L=0.5u
MT4Q_m4 t4Q_mb t4Q_m vdd vdd sg13_lv_pmos W=2u L=0.5u
MT4Q_m5 t4Q_nmp div8 vdd vdd sg13_lv_pmos W=2u L=0.5u
MT4Q_m6 t4Q_m t4Q_mb t4Q_nmp vdd sg13_lv_pmos W=2u L=0.5u
MT4Q_m7 t4Q_m t4Q_mb t4Q_nmn gnd sg13_lv_nmos W=1u L=0.5u
MT4Q_m8 t4Q_nmn div8_b gnd gnd sg13_lv_nmos W=1u L=0.5u
MT4Q_s1 t4Q_m div8_b div16_Q gnd sg13_lv_nmos W=1u L=0.5u
MT4Q_s2 t4Q_m div8 div16_Q vdd sg13_lv_pmos W=2u L=0.5u
MT4Q_s3 div16_Q_b div16_Q gnd gnd sg13_lv_nmos W=1u L=0.5u
MT4Q_s4 div16_Q_b div16_Q vdd vdd sg13_lv_pmos W=2u L=0.5u
MT4Q_s5 t4Q_nsp div8_b vdd vdd sg13_lv_pmos W=2u L=0.5u
MT4Q_s6 div16_Q div16_Q_b t4Q_nsp vdd sg13_lv_pmos W=2u L=0.5u
MT4Q_s7 div16_Q div16_Q_b t4Q_nsn gnd sg13_lv_nmos W=1u L=0.5u
MT4Q_s8 t4Q_nsn div8 gnd gnd sg13_lv_nmos W=1u L=0.5u
MMXfi_n1 mxfi_selb freq_sel gnd gnd sg13_lv_nmos W=1u L=0.5u
MMXfi_p1 mxfi_selb freq_sel vdd vdd sg13_lv_pmos W=2u L=0.5u
MMXfi_n2 div4_I mxfi_selb ref_I gnd sg13_lv_nmos W=1u L=0.5u
MMXfi_p2 div4_I freq_sel ref_I vdd sg13_lv_pmos W=2u L=0.5u
MMXfi_n3 div16_I freq_sel ref_I gnd sg13_lv_nmos W=1u L=0.5u
MMXfi_p3 div16_I mxfi_selb ref_I vdd sg13_lv_pmos W=2u L=0.5u
MMXfq_n1 mxfq_selb freq_sel gnd gnd sg13_lv_nmos W=1u L=0.5u
MMXfq_p1 mxfq_selb freq_sel vdd vdd sg13_lv_pmos W=2u L=0.5u
MMXfq_n2 div4_Q mxfq_selb ref_Q gnd sg13_lv_nmos W=1u L=0.5u
MMXfq_p2 div4_Q freq_sel ref_Q vdd sg13_lv_pmos W=2u L=0.5u
MMXfq_n3 div16_Q freq_sel ref_Q gnd sg13_lv_nmos W=1u L=0.5u
MMXfq_p3 div16_Q mxfq_selb ref_Q vdd sg13_lv_pmos W=2u L=0.5u
MMXiq_n1 mxiq_selb iq_sel gnd gnd sg13_lv_nmos W=1u L=0.5u
MMXiq_p1 mxiq_selb iq_sel vdd vdd sg13_lv_pmos W=2u L=0.5u
MMXiq_n2 ref_I mxiq_selb f_exc gnd sg13_lv_nmos W=1u L=0.5u
MMXiq_p2 ref_I iq_sel f_exc vdd sg13_lv_pmos W=2u L=0.5u
MMXiq_n3 ref_Q iq_sel f_exc gnd sg13_lv_nmos W=1u L=0.5u
MMXiq_p3 ref_Q mxiq_selb f_exc vdd sg13_lv_pmos W=2u L=0.5u
MBUF_I_n buf_ref_I ref_I gnd gnd sg13_lv_nmos W=1u L=0.5u
MBUF_I_p buf_ref_I ref_I vdd vdd sg13_lv_pmos W=2u L=0.5u
MBUF_Q_n buf_ref_Q ref_Q gnd gnd sg13_lv_nmos W=1u L=0.5u
MBUF_Q_p buf_ref_Q ref_Q vdd vdd sg13_lv_pmos W=2u L=0.5u
MBUF_CK_n f_exc_b f_exc gnd gnd sg13_lv_nmos W=1u L=0.5u
MBUF_CK_p f_exc_b f_exc vdd vdd sg13_lv_pmos W=2u L=0.5u
MINV_VCO_n vco_b vco_out gnd gnd sg13_lv_nmos W=1u L=0.5u
MINV_VCO_p vco_b vco_out vdd vdd sg13_lv_pmos W=2u L=0.5u

Vdd vdd 0 1.2
Vgnd gnd 0 0

.op
.end